US08871753B2
Step B: N-{3-[2-(6-Aminopyridin-2-yl)ethyl]phenyl}-2-chloro-5-fluoropyrimidin-4-amine dihydrochloride
To a mixture of tert-butyl [6-(2-{3-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-2-yl]carbamate (215 mg, 0.48 mmol) in 1,4-dioxane (0.90 mL) was added 4 M of hydrogen chloride in 1,4-dioxane (4.5 mL). The resultant reaction mixture was stirred at 35° C. for 3 hours. The reaction mixture was concentrated under vacuum to give the desired product as a very hydroscopic light yellow powder (194 mg, 96%). LCMS for C17H16ClFN5 (M+H)+: m/z=344.1.

reactant | tert-butyl [6-(2-{3-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-2-yl]carbamate | 0.48 mmol, 215 mg | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCC1=CC=CC(=N1)NC(OC(C)(C)C)=O)F | C22H23ClFN5O2
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 0.90 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
product | N-{3-[2-(6-Aminopyridin-2-yl)ethyl]phenyl}-2-chloro-5-fluoropyrimidin-4-amine dihydrochloride | Cl.Cl.NC1=CC=CC(=N1)CCC=1C=C(C=CC1)NC1=NC(=NC=C1F)Cl | InChI=1S/C17H15ClFN5.2ClH/c18-17-21-10-14(19)16(24-17)23-13-5-1-3-11(9-13)7-8-12-4-2-6-15(20)22-12;;/h1-6,9-10H,7-8H2,(H2,20,22)(H,21,23,24);2*1H
